US07705053B2
Production of 3-N-(4-chlorophenyl)-4-(2-pentenyloxy)-isophthalamide (Compound 1-1-4)
The captioned compound was synthesized from 3-N-(4-chlorophenyl)-4-methoxyisophthalamide and 1-bromo-2-pentene by the same procedure as in the manufacturing method described in Example 1-1-2.

reactant | 3-N-(4-chlorophenyl)-4-methoxyisophthalamide | ClC1=CC=C(C=C1)NC(C=1C=C(C(=O)N)C=CC1OC)=O | C15H13ClN2O3
reactant | 1-bromo-2-pentene | BrCC=CCC | C5H9Br
product | 3-N-(4-chlorophenyl)-4-(2-pentenyloxy)-isophthalamide | ClC1=CC=C(C=C1)NC(C=1C=C(C(=O)N)C=CC1OCC=CCC)=O | C19H19ClN2O3
